US04338326
Part C: 5,5-dichloro-3-methyl-2-isopropyl-4-pentenoic acid
A solution of 23.41 g (0.0925 mol) of ethyl 5,5-dichloro-3-methyl-2-isopropyl-4-pentenoate, 11.10 g (0.278 mol) of sodium hydroxide, 40 ml of water, and 40 ml of ethanol was refluxed for 3 days under N2, the solvent was concentrated on the rotary evaporator, the residue taken up in 300 ml of water and extracted 2× with ether. The aqueous layer was acidified with conc. HCl, then extracted 3× with 150 ml of ether. The combined ether extracts were washed with water, dried (MgSO4), and stripped to give 17.09 g (82% yield) of the desired acid.

reactant | ethyl 5,5-dichloro-3-methyl-2-isopropyl-4-pentenoate | 0.0925 mol, 23.41 g | ClC(=CC(C(C(=O)OCC)C(C)C)C)Cl | C11H18Cl2O2
reactant | sodium hydroxide | 0.278 mol, 11.10 g | [OH-].[Na+]
reactant | water | 40 ml | O | H2O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 5,5-dichloro-3-methyl-2-isopropyl-4-pentenoic acid | 17.09 g, 82% yield | ClC(=CC(C(C(=O)O)C(C)C)C)Cl | C9H14Cl2O2
